US08022223B2
Step A: Preparation of 3-(1-methyl-1H-imidazol-2-ylthio)pyridin-2-amine:
3-(1-methyl-1H-imidazol-2-ylthio)-2-nitropyridine (prepared according to the procedure of Example 359 (2.2 g, 9.3 mmol) was dissolved in acetic acid (30 mL) and cooled in a water bath. Zn dust (<10 micron, 3.0 g, 47 mmol) was slowly added in portions and the reaction stirred at ambient temperature for 30 minutes. The solution was filtered through celite (rinsing with dichloromethane) and the filtrate was concentrated. The solution was neutralized with NH4OH solution and extracted with EtOAc. The organic layer was dried and concentrated to provide the title compound (1.8 g, 94% yield) as a dark brown solid.

reactant | 3-(1-methyl-1H-imidazol-2-ylthio)-2-nitropyridine | CN1C(=NC=C1)SC=1C(=NC=CC1)[N+](=O)[O-] | C9H8N4O2S
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | 47 mmol, 3.0 g | [Zn] | Zn
product | 3-(1-methyl-1H-imidazol-2-ylthio)pyridin-2-amine | 1.8 g, 94% yield | CN1C(=NC=C1)SC=1C(=NC=CC1)N | C9H10N4S
